US04332820
N,N-Dimethyl-4-(2-cyano-4-nitrophenoxy)benzenesulfonamide
To a solution of 6.37 g (0.0317 moles) of N,N-dimethyl-4-hydroxybenzenesulfonamide in 150 ml of DMSO was added 1.27 g (0.0317 moles) of NaOH. The mixture was heated to 60° C. and 5.26 g (0.288 moles) of 2-chloro-5-nitrobenzonitrile added and the mixture heated at 75° C. for 21/2 hrs. The reaction mixture was cooled and poured into a solution of 400 ml of 2 N aqueous NaOH and 300 ml of water. The product was collected by filtration, washed well with water and dried to obtain 8.8 g of product (88% yield). Recrystallization from a mixture of ethanol and dimethylformamide afforded purified N,N-dimethyl-4-(2-cyano-4-nitrophenoxy)benzenesulfonamide, mp 221.5°-223° C.

reactant | N,N-dimethyl-4-hydroxybenzenesulfonamide | 0.0317 moles, 6.37 g | CN(S(=O)(=O)C1=CC=C(C=C1)O)C | C8H11NO3S
reactant | NaOH | 0.0317 moles, 1.27 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzonitrile | 0.288 moles, 5.26 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | NaOH | 2 N, 400 ml | [OH-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | N,N-Dimethyl-4-(2-cyano-4-nitrophenoxy)benzenesulfonamide | 8.8 g, 88% yield | CN(S(=O)(=O)C1=CC=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C#N)C | C15H13N3O5S
